Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
redness of incision and drainage
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo P1 ___ s/p LTCS on ___ presents with 
complaint of redness of incision and drainage.  Redness noted 
over incision site today.  Drainage fluid is clear, pink tinged, 
no frank blood.  Denies fever/chills, nausea/vomiting.  Overall 
feels well, no other complaints. 

 
Past Medical History:
denies
 
Social History:
no T/E/D
 
Physical Exam:
AVSS, afebrile
NAD
Abd: soft, NT, ND, FF below umbilicus
Ext: no calf tenderness
Incision: WTD dressing in place, healthy pink granulation 
tissue, surrounding skin non-erythematous
 
Pertinent Results:
___ 03:05AM BLOOD WBC-12.2* RBC-3.24* Hgb-9.6*# Hct-28.4*# 
MCV-88 MCH-29.7 MCHC-33.8 RDW-14.1 Plt ___
___ 03:05AM BLOOD Neuts-71.4* ___ Monos-4.0 Eos-1.5 
Baso-0.7
___ 03:05AM BLOOD Glucose-102 UreaN-24* Creat-0.7 Na-140 
K-4.2 Cl-105 HCO3-25 AnGap-14
___ 03:25AM BLOOD Lactate-1.___riefly this is a ___ yo ___ s/p LTCS ___ re-admitted with 
wound infection on ___.  The patient presented initially 
with erythema and drainage.  She was afebrile with normal labs.  
The incision was opened at the bedside and the fascia was probed 
and found to be intact.  The patient's wound was packed with wet 
4x4s.  As ___ was unable to be established at this point, 
patient was kept in house to arrange ___, monitor wound, and 
teach husband how to do wet-to-dry dressing changes.  Patient 
was also started on PO Keflex for likely cellulitis.  Patient 
was discharged on HD #2 in good condition with ___ to do one 
dressing change per day and patient's husband to do one dressing 
change per day.  
 
Medications on Admission:
Percocet, Ibuprofen
 
Discharge Medications:
Keflex
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-post-operative (cesarean section) wound infection/seroma

 
Discharge Condition:
good

 
Discharge Instructions:
-Wet to dry dressing change BID (once by ___ services)
-Follow-up at ___ CHC on ___
-see RN discharge instructions
 
Followup Instructions:
___